US09102632B2
67.5 g (330 mM) of N-(2,2-dimethoxyethyl)-N′-ethylethanediamide and 2 ml of concentrated hydrochloric acid in 390 ml of acetic acid were refluxed under stirring for 1 h. The solvent was removed under vacuum to give an oil, which was further purified by silica gel column chromatography, using dichloromethane/methanol (95/5) as eluant to give 37 g of 1-ethyl-3-hydroxy pyrazine-2(1H)-one, as an oil. Yield: 79.5%.

reactant | N-(2,2-dimethoxyethyl)-N′-ethylethanediamide | 330 mM, 67.5 g | COC(CNC(C(=O)NCC)=O)OC | C8H16N2O4
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | acetic acid | 390 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-3-hydroxy pyrazine-2(1H)-one | 37 g, Yield: 79.5% | C(C)N1C(C(=NC=C1)O)=O | C6H8N2O2
